US04814342
A. 4-Piperidinobutyryl chloride hydrochloride
4-Piperidinobutyric acid hydrochloride (750 mg) and 4 ml of thionyl chloride were combined and stirred at reflux for 45 min., concentrated, triturated with ether and dried to give 700 mg of light brown solid which when dissolved in dry methanol gave Rf 0.1 in system D, distinctly different from the starting acid and presumably the methyl ester. The solid was used without further purification.

reactant | 4-Piperidinobutyric acid hydrochloride | 750 mg | Cl.N1(CCCCC1)CCCC(=O)O
reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-Piperidinobutyryl chloride hydrochloride | 700 mg | Cl.N1(CCCCC1)CCCC(=O)Cl | InChI=1S/C9H16ClNO.ClH/c10-9(12)5-4-8-11-6-2-1-3-7-11;/h1-8H2;1H
